US07812008B2
(4S,4aS,5aR,12aS)-4,7-bis(dimethylamino)-3,10,12,12a-tetrahydroxy-9-[(N-methoxyglycyl)amino]-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydrotetracene-2-carboxamide
The compound of the example is prepared by the procedure of example 1 using 1.5 g of methoxyamine hydrochloride (neutralized by NaOH, extracted with methylene chloride), and 0.5 g of 9-(2-bromo-acetylamino)-4,7-bis-dimethylamino-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydro-naphthacene-2-carboxylic acid amide in 8 ml DMPU and 2.5 ml acetonitrile to give 0.1 g of the product.

reactant | methoxyamine hydrochloride | 1.5 g | Cl.CON
reactant | 9-(2-bromo-acetylamino)-4,7-bis-dimethylamino-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydro-naphthacene-2-carboxylic acid amide | 0.5 g | BrCC(=O)NC1=CC(=C2CC3CC4C(C(=C(C(C4(C(=C3C(C2=C1O)=O)O)O)=O)C(=O)N)O)N(C)C)N(C)C | C25H29BrN4O8
solvent | DMPU | 8 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | (4S,4aS,5aR,12aS)-4,7-bis(dimethylamino)-3,10,12,12a-tetrahydroxy-9-[(N-methoxyglycyl)amino]-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydrotetracene-2-carboxamide | 0.1 g | CN([C@@H]1C(=C(C([C@]2(C(=C3C(C4=C(C(=CC(=C4C[C@H]3C[C@@H]12)N(C)C)NC(CNOC)=O)O)=O)O)O)=O)C(=O)N)O)C | C26H33N5O9
